US08420647B2
4-Chloro-5-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-4-yloxy]-phthalic acid dimethyl ester
To a solution of 1.0 g (1.93 mmol) [4-(4-bromo-2,5-dichloro-phenoxy)-pyridin-3-yl]-(4-cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-methanone in 25 mL methanole and 25 mL ethyl acetate were added 0.40 mL (2.89 mmol) triethylamine and 0.094 g (0.12 mmol) 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane adduct (commercially available, CAS RN 851232-71-8). Then, a 70 bar carbon monoxide atmosphere was installed and the reaction mixture was stirred at 120° C. for 20 hours. After cooling down, the reaction mixture was filtered and the filtrate was treated with silica gel and evaporated. The resulting powder was then purified by silica gel chromatography using a MPLC system (50 g silica gel column, CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 50:50) to give a first batch of each compound. The remaining fractions containing impurities were combined and again chromatographed (20 g silica gel column, CombiFlash Companion, Isco Inc.) using a gradient of n-heptane:ethyl acetate (100:0 to 40:60) to give a second batch of the desired compounds.

reactant | [4-(4-bromo-2,5-dichloro-phenoxy)-pyridin-3-yl]-(4-cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-methanone | 1.93 mmol, 1.0 g | BrC1=CC(=C(OC2=C(C=NC=C2)C(=O)N2CCN(C3=CC=CC=C23)C2CC2)C=C1Cl)Cl | C23H18BrCl2N3O2
reactant | triethylamine | 2.89 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane | 0.12 mmol, 0.094 g | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-Chloro-5-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-4-yloxy]-phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=CC(=C(C1)OC1=C(C=NC=C1)C(=O)N1CCN(C2=CC=CC=C12)C1CC1)Cl)=O | C27H24ClN3O6
